US05159083
A mixture of 5-Bromo-2-methoxy-benzamidine (1.5 g), 1,3-dihydroxyacetone dimer (1.0 g), ammonium chloride (1.3 g), tetrahydrofuran (3 mL) and con-centrated aqueous ammonium hydroxide (10 mL) was heated at 90° C. for 3 h. The reaction mixture was chilled on ice and the precipitated product was collected and recrystallized from methanol to afford 2-(5-Bromo-2-methoxyphenyl)-5-hydroxymethyl-imidazole as a yellow solid.

reactant | 5-Bromo-2-methoxy-benzamidine | 1.5 g | BrC=1C=CC(=C(C(=N)N)C1)OC | C8H9BrN2O
reactant | 1,3-dihydroxyacetone dimer | 1.0 g | C1C(OCC(O1)(CO)O)(CO)O | C6H12O6
reactant | ammonium chloride | 1.3 g | [Cl-].[NH4+]
reactant | ammonium hydroxide | 10 mL | [OH-].[NH4+]
solvent | tetrahydrofuran | 3 mL | O1CCCC1 | C4H8O
product | 2-(5-Bromo-2-methoxyphenyl)-5-hydroxymethyl-imidazole | BrC=1C=CC(=C(C1)C=1NC(=CN1)CO)OC | C11H11BrN2O2
